### PR TITLE
feat: a simproc version of `compute_degree`

### LINKED ISSUE #22219: Turn `compute_degree` into a simproc
`compute_degree` is a prime example of a piece of meta code that could be implemented as a simproc. It would be interesting to reimplement it as such and compare the user experience.

### PR DESCRIPTION
**Pull request by 5hv5hvnk**
Wrap `compute_degree` in a simproc for use by simp.

Closes #22219.

---

### CODE REVIEW

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 1]
```diff
@@ -0,0 +1,145 @@
...
+  | (``NatCast.natCast, #[_, _, _]) =>
+    return true
+  | (``IntCast.intCast, #[_, _, _]) =>
+    return true
+  | _ =>
+    -- Check if it's a numeral
+    if e.numeral?.isSome then
+      return true
+    else
+      return false
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean]:
```suggestion
    return e.numeral?.isSome
```

**Review by YaelDillies — COMMENTED** [review]
Thank you for taking this up 🎉 

I don't understand: Are you reimplementing `compute_degree`. My idea when writing #22219 was to reuse the `compute_degree` internals

**Comment by 5hv5hvnk** [comment]
> I don't understand: Are you reimplementing `compute_degree`. 

Hey @YaelDillies , yes I think I had some misconception on the task. I update the code a little to use `ComputeDegree` from mathlib instead of redefining it.

Also what should be the target branch for the Mathlib Repo.

**Comment by 5hv5hvnk** [comment]
@YaelDillies  Can you take a pass over it now?

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 2]
```diff
@@ -0,0 +1,173 @@
...
+      let newGoals ← goalMVar.mvarId!.applyConst lem
+
+      -- Try to solve the subgoals using splitApply and try_rfl
+      let mut remainingGoals := newGoals
+      let mut staticGoals := []
+
+      -- Apply splitApply logic
+      while remainingGoals.length > 0 do
+        let (newRemaining, newStatic) ←
+          Mathlib.Tactic.ComputeDegree.splitApply remainingGoals staticGoals
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:104]: Can you `open Mathlib.Tactic` maybe?

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 3]
```diff
@@ -0,0 +1,173 @@
...
+
+      -- If we have no remaining goals, we succeeded
+      if finalGoals.isEmpty then
+        let computedDegree ← instantiateMVars degreeMVar
+        let proof ← instantiateMVars goalMVar
+        return some (computedDegree, proof)
+      else
+        return none
+    catch _ =>
+      return none
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:119]: This sort of catch-all makes things very difficult to debug later on. Is there a reason why you're breaking the usual error-flow and replacing all errors with `none`?

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 4]
```diff
@@ -0,0 +1,173 @@
...
+-/
+
+open Lean Meta Elab Tactic
+open Polynomial
+
+namespace Mathlib.Tactic.Simproc.PolynomialDegree
+
+/-- Determines if a polynomial expression is "explicit enough" to compute its degree.
+This means it's built from constants, X, and polynomial operations without free variables
+that would prevent degree computation. -/
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:32]: In fact, it's enough for the *leading coefficient* to be explicit enough, right? We know that the degree of `X ^ 2 + a • X + C b` is `2`. The issue of course is that you need to check that what you think the leading coefficient is isn't actually zero. Do you have ideas for how to handle that?

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 5]
```diff
@@ -0,0 +1,173 @@
...
+        let proof ← instantiateMVars goalMVar
+        return some (computedDegree, proof)
+      else
+        return none
+    catch _ =>
+      return none
+
+/-- Similar to computeDegree but for natDegree.
+For now, this is a simplified version that handles basic cases. -/
+def computeNatDegree (poly : Expr) : MetaM (Option (Expr × Expr)) := do
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:123]: Why isn't this just "Compute the degree, then compute `ENat.toNat` of it"?

File: MathlibTest/polynomial_degree_simproc.lean [hunk 6]
```diff
@@ -0,0 +1,24 @@
...
+
+example : Polynomial.natDegree (Polynomial.C (1 : R)) = 0 := by simp
+
+example : Polynomial.degree (Polynomial.X : R[X]) = (1 : WithBot ℕ) := by simp
+
+-- Test more complex polynomials that the original compute_degree can handle
+example : Polynomial.natDegree (Polynomial.X + Polynomial.C (1 : R) : R[X]) = 1 := by simp
+
+example : Polynomial.natDegree (Polynomial.X * Polynomial.X : R[X]) = 2 := by simp
+
```
Comment (YaelDillies) [inline MathlibTest/polynomial_degree_simproc.lean:16]: Can you have some tests for exponentiation? Something like
```suggestion

example : Polynomial.natDegree ((.X + C 1) ^ 10000 : R[X]) = 10000 := by simp
```

File: MathlibTest/polynomial_degree_simproc.lean [hunk 7]
```diff
@@ -0,0 +1,24 @@
...
+section ExplicitPolynomials
+
+#check (Polynomial.X : R[X])
+#check (Polynomial.C (1 : R))
+#check (Polynomial.X + Polynomial.C (1 : R) : R[X])
+#check (Polynomial.X * Polynomial.X : R[X])
+
+end ExplicitPolynomials
```
Comment (YaelDillies) [inline MathlibTest/polynomial_degree_simproc.lean:24]: Did you mean to test `isExplicitPolynomial` here?

**Review by YaelDillies — COMMENTED** [review]
Ahah, I was in fact writing a review already.

@adomani, are you interested in reviewing this?

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+addition, multiplication, powers, constants, and the indeterminate `X`.
+-/
+
+open Lean Meta Elab Tactic
+open Polynomial
+
+namespace Mathlib.Tactic.Simproc.PolynomialDegree
+
+/-- Determines if a polynomial expression is "explicit enough" to compute its degree.
+This means it's built from constants, X, and polynomial operations without free variables
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:31]:
```suggestion
This means it's built from constants, `X`, and polynomial operations without free variables
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+  -- We'll be conservative and check if the expression is built from known polynomial operations
+  match e.getAppFnArgs with
+  | (``HAdd.hAdd, #[_, _, _, _, lhs, rhs]) =>
+    return (← isExplicitPolynomial lhs) && (← isExplicitPolynomial rhs)
+  | (``HSub.hSub, #[_, _, _, _, lhs, rhs]) =>
+    return (← isExplicitPolynomial lhs) && (← isExplicitPolynomial rhs)
+  | (``HMul.hMul, #[_, _, _, _, lhs, rhs]) =>
+    return (← isExplicitPolynomial lhs) && (← isExplicitPolynomial rhs)
+  | (``HPow.hPow, #[_, _, _, _, base, exp]) =>
+    -- Check if base is explicit and exponent is a natural number literal
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:43]:
```suggestion
    -- Check if `base` is explicit and `exp`onent is a natural number literal
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 10]
```diff
@@ -0,0 +1,173 @@
...
+  | (``NatCast.natCast, #[_, _, _]) =>
+    return true
+  | (``IntCast.intCast, #[_, _, _]) =>
+    return true
+  | _ =>
+    -- Check if it's a numeral
+    return e.numeral?.isSome
+
+/-- Attempts to compute the degree of an explicit polynomial expression.
+Uses the compute_degree tactic's internal logic to leverage existing degree computation. -/
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:71]:
```suggestion
Uses the `compute_degree` tactic's internal logic to leverage existing degree computation. -/
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 11]
```diff
@@ -0,0 +1,173 @@
...
+def computeDegree (poly : Expr) : MetaM (Option (Expr × Expr)) := do
+  -- Check if polynomial is explicit enough
+  unless (← isExplicitPolynomial poly) do
+    return none
+
+  -- Try to compute using compute_degree's internal logic
+  -- Create a fresh metavariable for the degree
+  let degreeType := mkApp (mkConst ``WithBot [levelZero]) (mkConst ``Nat)
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:79]:
```suggestion
  let degreeType := .app (mkConst ``WithBot [levelZero]) (mkConst ``Nat)
```
as I believe that this is the preferred spelling.

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 12]
```diff
@@ -0,0 +1,173 @@
...
+
+  -- Create the goal `Polynomial.degree poly = ?deg`
+  let degreeApp := mkApp (mkConst ``Polynomial.degree) poly
+  let goal := mkApp3 (mkConst ``Eq [levelOne]) degreeType degreeApp degreeMVar
+
+  -- Create a goal MVarId and try to solve it using compute_degree's logic
+  let goalMVar ← mkFreshExprMVar goal
+  goalMVar.mvarId!.withContext do
+    try
+      -- Use the same logic as compute_degree tactic
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:90]:
```suggestion
      -- Use the same logic as `compute_degree` tactic
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 13]
```diff
@@ -0,0 +1,173 @@
...
+      let twoH := Mathlib.Tactic.ComputeDegree.twoHeadsArgs goal
+      let lem := Mathlib.Tactic.ComputeDegree.dispatchLemma twoH
+
+      -- Apply the selected lemma
+      let newGoals ← goalMVar.mvarId!.applyConst lem
+
+      -- Try to solve the subgoals using splitApply and try_rfl
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:97]:
```suggestion
      -- Try to solve the subgoals using `splitApply` and `try_rfl`
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 14]
```diff
@@ -0,0 +1,173 @@
...
+      let mut remainingGoals := newGoals
+      let mut staticGoals := []
+
+      -- Apply splitApply logic
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:101]:
```suggestion
      -- Apply `splitApply` logic
```

File: Mathlib/Tactic/Simproc/PolynomialDegree.lean [hunk 15]
```diff
@@ -0,0 +1,173 @@
...
+      while remainingGoals.length > 0 do
+        let (newRemaining, newStatic) ←
+          Mathlib.Tactic.ComputeDegree.splitApply remainingGoals staticGoals
+        remainingGoals := newRemaining
+        staticGoals := newStatic
+
+      -- Try to close remaining goals with rfl
```
Comment (adomani) [inline Mathlib/Tactic/Simproc/PolynomialDegree.lean:108]:
```suggestion
      -- Try to close remaining goals with `rfl`
```

**Review by adomani — COMMENTED** [review]
I simply left some really minor comments.

CI is currently complaining about the fact that you should commit the files that `lake exe mk_all --git` produces.  This is simply to make sure that `Mathlib.lean` and `Mathlib/Tactic.lean` stay up to date.

However, when I open the test file locally, it just consists of error messages.  Even adding a blanket `open Polynomial` does not fix the issues.
